US07144881B2
2-Phenyl-cyclopropanecarboxylic acid [1-(4-fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-amide
A mixture of (R)-2-amino-2-(4-fluoro-3-morpholin-4-yl-phenyl)-ethanol (0.1 mmol), 2-phenyl-cyclopropanecarboxylic acid (0.1 mmol), EDAC.HCl (0.2 mmol), DMAP (0.1 mmol), triethylamine (0.4 mmol) in dichloromethane (2 mL) was stirred at room temperature overnight. The reaction mixture was purified by flash chromatography with 3% methanol in ethyl acetate to give the desired product (27 mg) as a solid.

reactant | (R)-2-amino-2-(4-fluoro-3-morpholin-4-yl-phenyl)-ethanol | 0.1 mmol | N[C@@H](CO)C1=CC(=C(C=C1)F)N1CCOCC1 | C12H17FN2O2
reactant | 2-phenyl-cyclopropanecarboxylic acid | 0.1 mmol | C1(=CC=CC=C1)C1C(C1)C(=O)O | C10H10O2
reactant | EDAC.HCl | 0.2 mmol | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.4 mmol | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Phenyl-cyclopropanecarboxylic acid [1-(4-fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-amide | 27 mg | FC1=C(C=C(C=C1)C(CO)NC(=O)C1C(C1)C1=CC=CC=C1)N1CCOCC1 | C22H25FN2O3
